US06300353B1
A mixture of 167 mg of (2R,3R)-4-[4-(N-tert-butoxycarbonyl-N-methylaminoacetoxy)-3,5-dimethylbenzyl]-1-[3-[4-(4-cyanophenyl)thiazol-2-yl]-2-hydroxy-2-(2,4,5-trifluorophenyl)butyl]-1H-[1,2,4]triazol-4-ium bromide and 2 ml of 4N-HCl in ethyl acetate in 4 ml of ethyl acetate was stirred for 4 h at room temperature and filtered. The white solid was washed with ether and dried in vacuo to obtain 141 mg(92%) of 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-hydroxy-2-(2,4,5-trifluorophenyl)butyl]-4-(3,5-dimethyl-4-methylaminoacetoxybenzyl)-1H-[1,2,4]triazol-4-ium bromide hydrochloride.

reactant | (2R,3R)-4-[4-(N-tert-butoxycarbonyl-N-methylaminoacetoxy)-3,5-dimethylbenzyl]-1-[3-[4-(4-cyanophenyl)thiazol-2-yl]-2-hydroxy-2-(2,4,5-trifluorophenyl)butyl]-1H-[1,2,4]triazol-4-ium bromide | 167 mg | [Br-].C(C)(C)(C)OC(=O)N(C)CC(=O)OC1=C(C=C(C[N+]=2C=NN(C2)C[C@@]([C@@H](C)C=2SC=C(N2)C2=CC=C(C=C2)C#N)(C2=C(C=C(C(=C2)F)F)F)O)C=C1C)C
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-hydroxy-2-(2,4,5-trifluorophenyl)butyl]-4-(3,5-dimethyl-4-methylaminoacetoxybenzyl)-1H-[1,2,4]triazol-4-ium bromide hydrochloride | 141 mg, 92% | Cl.[Br-].C(#N)C1=CC=C(C=C1)C=1N=C(SC1)[C@@H]([C@](CN1N=C[N+](=C1)CC1=CC(=C(C(=C1)C)OC(CNC)=O)C)(C1=C(C=C(C(=C1)F)F)F)O)C | InChI=1S/C34H32F3N6O3S.BrH.ClH/c1-20-9-24(10-21(2)32(20)46-31(44)14-39-4)15-42-18-40-43(19-42)17-34(45,26-11-28(36)29(37)12-27(26)35)22(3)33-41-30(16-47-33)25-7-5-23(13-38)6-8-25;;/h5-12,16,18-19,22,39,45H,14-15,17H2,1-4H3;2*1H/q+1;;/p-1/t22-,34+;;/m0../s1
